US05084459
To a mixture of 0.27 g of 4-(6-chloro-3-pyridylmethylamino)-1,3-dimethyl-5-nitro-1,2,3,6-tetrahydropyrimidine (Compound No. 13), 5 ml of dry THF and 5 ml of dry acetonitrile was added 0.0239 g of sodium hydride (60%, in oil) in small portions over 1 minute with ice cooling. After the mixture was stirred at room temperature for 30 minutes, a solution of 0.24 g of formic acetic anhydride in 1 ml of THF was added dropwise over a period of 4 minutes with ice cooling and the mixture was then stirred at room temperature for 3 hours. The reaction mixture was concentrated and purified by column chromatography (eluent: dichloromethane-methanol (20:1)) to give 0.14 g of 4-[N-(6-chloro-3-pyridylmethyl)-N-formylamino]-1,3-dimethyl-5-nitro-1,2,3,6-tetrahydropyrimidine (Compound No. 30) as a syrup.

reactant | 4-(6-chloro-3-pyridylmethylamino)-1,3-dimethyl-5-nitro-1,2,3,6-tetrahydropyrimidine | 0.27 g | ClC1=CC=C(C=N1)CNC=1N(CN(CC1[N+](=O)[O-])C)C | C12H16ClN5O2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | sodium hydride | 0.0239 g | [H-].[Na+]
reactant | formic acetic anhydride | 0.24 g | C(C)(=O)OC=O | C3H4O3
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[N-(6-chloro-3-pyridylmethyl)-N-formylamino]-1,3-dimethyl-5-nitro-1,2,3,6-tetrahydropyrimidine | 0.14 g | ClC1=CC=C(C=N1)CN(C=O)C=1N(CN(CC1[N+](=O)[O-])C)C | C13H16ClN5O3
